US07553873B2
4-Carbamoyl-4-[4-(pyrimidin-2-ylamino)-benzoylamino]-butyric acid tert-butyl ester was dissolved in dichloroethane (10 mL), followed by the addition of TFA (5 mL). The mixture was stirred at room temperature for 4 hrs. TLC indicated the reaction was complete. Solvents were then removed by rotavap and the residue was washed with EtOAc. A solid was collected by filtration and dried in vacuum oven overnight. 4-Carbamoyl-4-[4-(pyrimidin-2-ylamino)-benzoylamino]-butyric acid was obtained in quantitative yield (285 mg). MS (ESI) m/z 344.

reactant | 4-Carbamoyl-4-[4-(pyrimidin-2-ylamino)-benzoylamino]-butyric acid tert-butyl ester | C(C)(C)(C)OC(CCC(NC(C1=CC=C(C=C1)NC1=NC=CC=N1)=O)C(N)=O)=O | C20H25N5O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 4-Carbamoyl-4-[4-(pyrimidin-2-ylamino)-benzoylamino]-butyric acid | quantitative yield | C(N)(=O)C(CCC(=O)O)NC(C1=CC=C(C=C1)NC1=NC=CC=N1)=O | C16H17N5O4
